************************************************************************
* auCdl Netlist:
* 
* Library Name:  lab3
* Top Cell Name: Complex_f2
* View Name:     schematic
* Netlisted on:  Nov 29 22:47:20 2016
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL gnd!
+        vdd!

*.PIN gnd!
*+    vdd!

************************************************************************
* Library Name: lab3
* Cell Name:    Complex_f2
* View Name:    schematic
************************************************************************

.SUBCKT Complex_f2 A B C D S
*.PININFO A:I B:I C:I D:I S:O
MNA S A net13 gnd! nsvtgp w=0.2 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MNB net13 B net11 gnd! nsvtgp w=0.2 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MNC net11 C gnd! gnd! nsvtgp w=0.2 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MND net11 D gnd! gnd! nsvtgp w=0.2 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MPA S A vdd! vdd! psvtgp w=0.4 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MPB S B vdd! vdd! psvtgp w=0.4 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MPC S C net33 vdd! psvtgp w=0.4 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MPD net33 D vdd! vdd! psvtgp w=0.4 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
.ENDS

